US06762316B1
(−)-Ethyl cis-4-tert-butoxycarbonylamino-2-cyclopentene-1-carboxylate.
To a mixture of (−)-ethyl cis-4-amino-2-cyclopentene-1-carboxylate hydrochloride (17.5 g, 91.3 mmol), in CH2Cl2 (200 mL) at 0° C., was added triethylamine (26 mL, 186.5 mmol), di-tert-butyldicarbonate (26 g, 119 mmol), and 4-dimethylaminopyridine (1 g, 8.2 mmol) and the mixture was stirred at room temperature for 16 h. The reaction mixture was washed with water (2×200 mL), and brine (50 mL), the organic layer was dried (MgSO4) and concentrated in vacuo to furnish 21.3 g of crude product. Purification by flash column chromatography (silica gel 600 g, 20-50% ethyl acetate in hexane) gave 15.7 g (67%) of the product as a yellow oil.

reactant | (−)-ethyl cis-4-amino-2-cyclopentene-1-carboxylate hydrochloride | 91.3 mmol, 17.5 g | Cl.N[C@H]1C=C[C@H](C1)C(=O)OCC
reactant | triethylamine | 186.5 mmol, 26 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 119 mmol, 26 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8.2 mmol, 1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (−)-Ethyl cis-4-tert-butoxycarbonylamino-2-cyclopentene-1-carboxylate | 15.7 g, 67% | C(C)(C)(C)OC(=O)N[C@H]1C=C[C@H](C1)C(=O)OCC | C13H21NO4
